US04202899
(b) N-Butyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]-pyrido[3,4-e]pyrimidin-5-amine
0.01 mol of N-butyl-8-furfuryl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine is heated in 50 ml of diethyleneglycol dimethyl ether containing 0.01 mol of selenium dioxide at reflux temperature with stirring for two hours. The mixture is filtered hot and evaporated to dryness. N-butyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine remains.

reactant | N-butyl-8-furfuryl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine | 0.01 mol | C(CCC)NC1=NC=2N(C3=C1C=NC1=C3C=NN1CC1=CC=CO1)N=C(C2)C | C20H21N7O
reactant | diethyleneglycol dimethyl ether | 0.01 mol, 50 ml | COCCOCCOC | C6H14O3
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | N-Butyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]-pyrido[3,4-e]pyrimidin-5-amine | C(CCC)NC1=NC=2N(C3=C1C=NC1=C3C=NN1)N=C(C2)C | C15H17N7
